US04559402
Preparation of 2-methyl-3-(1-ethyl-1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine
One g of 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine was dissolved in 20 ml of dimethyl-formamide and 0.3 g of sodium hydride (55%) was added whilst stirring to the mixture. The mixture was stirred at room temperature for 1 hour, and then 1 g of ethylchloride was added and stirred at 60° C. for 2 hours. After removal of solvent in vacuo, the residue was chromatographed over SiO2 employing CH2Cl2 --ethyl acetate--methanol (8:1.5:0.5) mixture as eluent. The eluate was evaporated to dryness in vacuo and the residue was recrystallized from benzene-hexane to afford the title compound in yield of 0.8 g (72%), mp. 104°-105° C.

reactant | 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CNCCC1)=O | C14H15N3O
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethylchloride | 1 g | C(C)Cl | C2H5Cl
solvent | dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methyl-3-(1-ethyl-1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CN(CCC1)CC)=O | C16H19N3O
